US06756395B2
A mixture of N-[4-(4,5-dihydro-1H-imidazol-2-ylmethyl)-benzofuran-7-yl]-methanesulfonamide (44 mg, 0.13 mmoles) and 10% Pd-C (pinch) in methanol (5 mL) was stirred under hydrogen which was supplied by a hydrogen filled balloon, at room temperature for 17 days. The catalyst was removed by filtration through celite. The filtrate was concentrated under reduced pressure. The residue was purified by flash column chromatography over silica gel eluting with 10% to 12% methanol in dichloromethane with 0.1% ammonium hydroxide to give N-[4-(4,5-dihydro-1H-imidazol-2-ylmethyl)-2,3-dihydro-benzofuran-7-yl]-methanesulfonamide as a solid which was further purified by preparative RPHPLC (YMC Combiprep ODS-A column, 10-90% acetonitrile: water (0.1% TFA)) M+H 296. The following representative compounds were synthesized similarly as shown above. Additional compounds prepared according to the procedure of Example 1 are shown in Table 1.

reactant | N-[4-(4,5-dihydro-1H-imidazol-2-ylmethyl)-benzofuran-7-yl]-methanesulfonamide | 0.13 mmoles, 44 mg | N1C(=NCC1)CC1=CC=C(C2=C1C=CO2)NS(=O)(=O)C | C13H15N3O3S
reactant | hydrogen | [H][H] | H2
solvent | methanol | 5 mL | CO | CH4O
catalyst | Pd-C | [Pd] | Pd
product | N-[4-(4,5-dihydro-1H-imidazol-2-ylmethyl)-2,3-dihydro-benzofuran-7-yl]-methanesulfonamide | N1C(=NCC1)CC1=CC=C(C2=C1CCO2)NS(=O)(=O)C | C13H17N3O3S
